US07060844B2
To a slurry of [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid (521 mg, 1.60 mmol) in MeOH (100.0 ml) at room temperature was added 0.5M NaOMe/MeOH (3.20 ml). The solution was rapidly stirred for 15 minutes and then rotary evaporated (combined 16 mg of product obtained from previously run reaction). The solid was chased with MeOH (20 ml) and then EtOAc (15 ml) to give sodium [(3E)-3-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-1,3-dihydro-2-benzofuran-1-yl]acetate as a yellow solid (557 mg, 100%).

reactant | [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 1.60 mmol, 521 mg | FC1=CC=C2C(C(NC2=C1)=O)=C1OC(C2=CC=CC=C12)CC(=O)O | C18H12FNO4
reactant | NaOMe MeOH | 0.5M, 3.20 ml | C[O-].[Na+].CO
reactant | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 100.0 ml | CO | CH4O
solvent | MeOH | 20 ml | CO | CH4O
product | sodium [(3E)-3-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-1,3-dihydro-2-benzofuran-1-yl]acetate | 557 mg, 100% | FC1=CC=C2/C(/C(NC2=C1)=O)=C/1\OC(C2=C1C=CC=C2)CC(=O)[O-].[Na+] | InChI=1S/C18H12FNO4.Na/c19-9-5-6-12-13(7-9)20-18(23)16(12)17-11-4-2-1-3-10(11)14(24-17)8-15(21)22;/h1-7,14H,8H2,(H,20,23)(H,21,22);/q;+1/p-1/b17-16+;
